* NMOS1V8 output characteristics - Id vs Vds at stepped Vgs (TT corner)
.include "../autohv_bicmos180_case.lib"
.param case=0

Vds d 0 0
Vgs g 0 0
X1 d g 0 0 NMOS1V8 W=10u L=1u M=1     ; d g s b

* sweep Vds 0..1.8 V; step Vgs 0.6..1.8 V in 0.3 V increments
.dc Vds 0 1.8 0.02 Vgs 0.6 1.8 0.3

.control
  run
  * plot -i(Vds)      ; uncomment for interactive Id-Vds curves
  print -i(Vds)
.endc
.end
